US06225309B1
Using an analogous procedure to that described in Example 2 except that DMF was used in place of methylene chloride as the reaction solvent, 1-{2-[4-(4-pyridyl)piperazin-1-yl]acetyl}piperazine was reacted with 2-naphthylsulphonyl chloride to give 1-(2-naphthylsulphonyl)-4-{2-[4-(4-pyridyl)piperazin-1-yl]acetyl}-piperazine in 22% yield;

reactant | 1-{2-[4-(4-pyridyl)piperazin-1-yl]acetyl}piperazine | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1CCNCC1 | C15H23N5O
reactant | 2-naphthylsulphonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2-naphthylsulphonyl)-4-{2-[4-(4-pyridyl)piperazin-1-yl]acetyl}-piperazine | 22% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CC1)C(CN1CCN(CC1)C1=CC=NC=C1)=O | C25H29N5O3S
